US05244908
To a solution of 5-[3-(hydroxy)propylthio]imidazo[1,2-a]pyridine (1.030 g, 4.95 mmoles) and triethylamine (1.03 ml, 7.4 mmoles) in methylene chloride (30 ml) was added methanesulfonyl chloride (0.46 ml, 5.9 mmoles) with stirring under ice-cooling and the mixture was further stirred under ice-cooling for 10 minutes. The reaction mixture was washed with water and the aqueous layer was extracted with methylene chloride (30 ml×3). The methylene chloride layers were combined and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off to obtain crude 5-[3-(methanesulfonyloxy)propylthio]imidazo[1,2-a]pyridine as a yellow oily product.

reactant | 5-[3-(hydroxy)propylthio]imidazo[1,2-a]pyridine | 4.95 mmoles, 1.030 g | OCCCSC1=CC=CC=2N1C=CN2 | C10H12N2OS
reactant | triethylamine | 7.4 mmoles, 1.03 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.9 mmoles, 0.46 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 5-[3-(methanesulfonyloxy)propylthio]imidazo[1,2-a]pyridine | CS(=O)(=O)OCCCSC1=CC=CC=2N1C=CN2 | C11H14N2O3S2
